* source I-DECODER-002
R_DECODER_U7_R4         0 0  10Meg  
M_DECODER_U7_M2         DECODER_U7_N38454 0 DECODER_U7_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M6         DECODER_U7_N38740 0 DECODER_U7_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M8         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U7_M14         DECODER_U7_N43125 0 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M11         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U7_R7         0 0  10Meg  
M_DECODER_U7_M3         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U7_R1         0 0  10Meg  
M_DECODER_U7_M4         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U7_R2         0 0  10Meg  
R_DECODER_U7_R5         0 0  10Meg  
R_DECODER_U7_R3         0 0  10Meg  
M_DECODER_U7_M13         DECODER_U7_N43586 0 DECODER_U7_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M9         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U7_R6         0 0  10Meg  
M_DECODER_U7_M12         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U7_M7         DECODER_U7_N38778 0 DECODER_U7_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M5         DECODER_N00989 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U7_M1         DECODER_N00989 0 DECODER_U7_N38454 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U7_M10         DECODER_U7_N39060 0 DECODER_U7_N43586 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U1_M4         DECODER_N00369 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U1_M5         DECODER_N00369 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U1_R1         0 0  10Meg  
M_DECODER_U1_M6         DECODER_N00369 0 DECODER_U1_N23681 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U1_R2         N00509 0  10Meg  
M_DECODER_U1_M2         DECODER_U1_N23681 N00509 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U2_M4         N00692 DECODER_N00369 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U2_M5         N00692 DECODER_N00379 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U2_R1         DECODER_N00379 0  10Meg  
M_DECODER_U2_M6         N00692 DECODER_N00379 DECODER_U2_N23681 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U2_R2         DECODER_N00369 0  10Meg  
M_DECODER_U2_M2         DECODER_U2_N23681 DECODER_N00369 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U8_R3         DECODER_N00899 0  10Meg  
M_DECODER_U8_M1         N00731 DECODER_N00778 DECODER_U8_N28403 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U8_M5         N00731 DECODER_N00899 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U8_R4         DECODER_N00989 0  10Meg  
M_DECODER_U8_M2         DECODER_U8_N28403 DECODER_N00817 DECODER_U8_N28818 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U8_M3         N00731 DECODER_N00778 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U8_M6         DECODER_U8_N28818 DECODER_N00899 DECODER_U8_N29978 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U8_M7         DECODER_U8_N29978 DECODER_N00989 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U8_M4         N00731 DECODER_N00817 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U8_M8         N00731 DECODER_N00989 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U8_R1         DECODER_N00778 0  10Meg  
R_DECODER_U8_R2         DECODER_N00817 0  10Meg  
M_DECODER_U3_M10         DECODER_U3_N37381 0 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U3_M4         DECODER_N00379 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U3_R1         0 0  10Meg  
R_DECODER_U3_R2         0 0  10Meg  
R_DECODER_U3_R3         0 0  10Meg  
M_DECODER_U3_M7         DECODER_U3_N33879 0 DECODER_U3_N37381 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U3_M5         DECODER_N00379 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U3_M1         DECODER_N00379 0 DECODER_U3_N33539 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U3_M2         DECODER_U3_N33539 0 DECODER_U3_N33841 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U3_M6         DECODER_U3_N33841 0 DECODER_U3_N33879 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U3_R4         0 0  10Meg  
R_DECODER_U3_R5         0 0  10Meg  
M_DECODER_U3_M3         DECODER_N00379 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U3_M8         DECODER_N00379 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U3_M9         DECODER_N00379 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U4_R4         N00509 0  10Meg  
M_DECODER_U4_M2         DECODER_U4_N38454 N00509 DECODER_U4_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M6         DECODER_U4_N38740 N00509 DECODER_U4_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M8         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U4_M14         DECODER_U4_N43125 N00509 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M11         DECODER_N00778 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U4_R7         N00509 0  10Meg  
M_DECODER_U4_M3         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U4_R1         0 0  10Meg  
M_DECODER_U4_M4         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U4_R2         N00509 0  10Meg  
R_DECODER_U4_R5         N00509 0  10Meg  
R_DECODER_U4_R3         N00509 0  10Meg  
M_DECODER_U4_M13         DECODER_U4_N43586 N00509 DECODER_U4_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M9         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U4_R6         N00509 0  10Meg  
M_DECODER_U4_M12         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U4_M7         DECODER_U4_N38778 N00509 DECODER_U4_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M5         DECODER_N00778 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U4_M1         DECODER_N00778 0 DECODER_U4_N38454 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U4_M10         DECODER_U4_N39060 N00509 DECODER_U4_N43586 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U5_R4         N00509 0  10Meg  
M_DECODER_U5_M2         DECODER_U5_N38454 0 DECODER_U5_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M6         DECODER_U5_N38740 0 DECODER_U5_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M8         DECODER_N00817 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U5_M14         DECODER_U5_N43125 N00509 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M11         DECODER_N00817 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U5_R7         N00509 0  10Meg  
M_DECODER_U5_M3         DECODER_N00817 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U5_R1         0 0  10Meg  
M_DECODER_U5_M4         DECODER_N00817 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U5_R2         0 0  10Meg  
R_DECODER_U5_R5         N00509 0  10Meg  
R_DECODER_U5_R3         0 0  10Meg  
M_DECODER_U5_M13         DECODER_U5_N43586 N00509 DECODER_U5_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M9         DECODER_N00817 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U5_R6         N00509 0  10Meg  
M_DECODER_U5_M12         DECODER_N00817 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U5_M7         DECODER_U5_N38778 N00509 DECODER_U5_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M5         DECODER_N00817 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U5_M1         DECODER_N00817 0 DECODER_U5_N38454 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U5_M10         DECODER_U5_N39060 N00509 DECODER_U5_N43586 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_U6_R4         0 0  10Meg  
M_DECODER_U6_M2         DECODER_U6_N38454 0 DECODER_U6_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M6         DECODER_U6_N38740 0 DECODER_U6_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M8         DECODER_N00899 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U6_M14         DECODER_U6_N43125 N00509 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M11         DECODER_N00899 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U6_R7         N00509 0  10Meg  
M_DECODER_U6_M3         DECODER_N00899 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U6_R1         0 0  10Meg  
M_DECODER_U6_M4         DECODER_N00899 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U6_R2         0 0  10Meg  
R_DECODER_U6_R5         0 0  10Meg  
R_DECODER_U6_R3         0 0  10Meg  
M_DECODER_U6_M13         DECODER_U6_N43586 N00509 DECODER_U6_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M9         DECODER_N00899 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_U6_R6         N00509 0  10Meg  
M_DECODER_U6_M12         DECODER_N00899 0 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U6_M7         DECODER_U6_N38778 0 DECODER_U6_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M5         DECODER_N00899 N00509 N00509 N00509 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_U6_M1         DECODER_N00899 0 DECODER_U6_N38454 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_U6_M10         DECODER_U6_N39060 0 DECODER_U6_N43586 0 CMOSN  
+ L=.5u  
+ W=.8u         
V_V1         N00509 0 5
R_R1         N00692 N00509  100k  
R_R2         N00731 N00509  100k  
