* source I-DECODER-001
R_R4         V1NET N00370  1k  
V_V1         V1NET N22204 5
R_DECODER_7-NAND1_R4         N00370 N22204  10Meg  
M_DECODER_7-NAND1_M2         DECODER_7-NAND1_N38454 N22204
+  DECODER_7-NAND1_N38740 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M6         DECODER_7-NAND1_N38740 N22204
+  DECODER_7-NAND1_N38778 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M8         DECODER_N00445 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND1_M14         DECODER_7-NAND1_N43125 N00370 N22204 N22204 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M11         DECODER_N00445 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND1_R7         N00370 N22204  10Meg  
M_DECODER_7-NAND1_M3         DECODER_N00445 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND1_R1         N22204 N22204  10Meg  
M_DECODER_7-NAND1_M4         DECODER_N00445 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND1_R2         N22204 N22204  10Meg  
R_DECODER_7-NAND1_R5         N00370 N22204  10Meg  
R_DECODER_7-NAND1_R3         N22204 N22204  10Meg  
M_DECODER_7-NAND1_M13         DECODER_7-NAND1_N43046 N00370
+  DECODER_7-NAND1_N43125 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M9         DECODER_N00445 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND1_R6         N00370 N22204  10Meg  
M_DECODER_7-NAND1_M12         DECODER_N00445 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND1_M7         DECODER_7-NAND1_N38778 N00370
+  DECODER_7-NAND1_N39060 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M5         DECODER_N00445 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND1_M1         DECODER_N00445 N22204 DECODER_7-NAND1_N38454
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND1_M10         DECODER_7-NAND1_N39060 N00370
+  DECODER_7-NAND1_N43046 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_7-NAND_R4         N00370 N22204  10Meg  
M_DECODER_7-NAND_M2         DECODER_7-NAND_N38454 N00370 DECODER_7-NAND_N38740
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M6         DECODER_7-NAND_N38740 N00370 DECODER_7-NAND_N38778
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M8         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND_M14         DECODER_7-NAND_N43125 N00370 N22204 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M11         DECODER_N00417 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND_R7         N00370 N22204  10Meg  
M_DECODER_7-NAND_M3         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND_R1         N22204 N22204  10Meg  
M_DECODER_7-NAND_M4         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND_R2         N00370 N22204  10Meg  
R_DECODER_7-NAND_R5         N00370 N22204  10Meg  
R_DECODER_7-NAND_R3         N00370 N22204  10Meg  
M_DECODER_7-NAND_M13         DECODER_7-NAND_N43046 N00370 DECODER_7-NAND_N43125
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M9         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND_R6         N00370 N22204  10Meg  
M_DECODER_7-NAND_M12         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND_M7         DECODER_7-NAND_N38778 N00370 DECODER_7-NAND_N39060
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M5         DECODER_N00417 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND_M1         DECODER_N00417 N22204 DECODER_7-NAND_N38454 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND_M10         DECODER_7-NAND_N39060 N00370 DECODER_7-NAND_N43046
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_7-NAND2_R4         N22204 N22204  10Meg  
M_DECODER_7-NAND2_M2         DECODER_7-NAND2_N38454 N22204
+  DECODER_7-NAND2_N38740 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M6         DECODER_7-NAND2_N38740 N22204
+  DECODER_7-NAND2_N38778 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M8         DECODER_N00481 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND2_M14         DECODER_7-NAND2_N43125 N00370 N22204 N22204 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M11         DECODER_N00481 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND2_R7         N00370 N22204  10Meg  
M_DECODER_7-NAND2_M3         DECODER_N00481 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND2_R1         N22204 N22204  10Meg  
M_DECODER_7-NAND2_M4         DECODER_N00481 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND2_R2         N22204 N22204  10Meg  
R_DECODER_7-NAND2_R5         N22204 N22204  10Meg  
R_DECODER_7-NAND2_R3         N22204 N22204  10Meg  
M_DECODER_7-NAND2_M13         DECODER_7-NAND2_N43046 N00370
+  DECODER_7-NAND2_N43125 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M9         DECODER_N00481 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND2_R6         N00370 N22204  10Meg  
M_DECODER_7-NAND2_M12         DECODER_N00481 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND2_M7         DECODER_7-NAND2_N38778 N22204
+  DECODER_7-NAND2_N39060 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M5         DECODER_N00481 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND2_M1         DECODER_N00481 N22204 DECODER_7-NAND2_N38454
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND2_M10         DECODER_7-NAND2_N39060 N22204
+  DECODER_7-NAND2_N43046 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_4-NAND_R3         DECODER_N00481 N22204  10Meg  
M_DECODER_4-NAND_M1         LSB DECODER_N00417 DECODER_4-NAND_N28403 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_4-NAND_M5         LSB DECODER_N00481 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_4-NAND_R4         DECODER_N00547 N22204  10Meg  
M_DECODER_4-NAND_M2         DECODER_4-NAND_N28403 DECODER_N00445
+  DECODER_4-NAND_N28818 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_4-NAND_M3         LSB DECODER_N00417 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_4-NAND_M6         DECODER_4-NAND_N28818 DECODER_N00481
+  DECODER_4-NAND_N29978 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_4-NAND_M7         DECODER_4-NAND_N29978 DECODER_N00547 N22204 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_4-NAND_M4         LSB DECODER_N00445 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_4-NAND_M8         LSB DECODER_N00547 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_4-NAND_R1         DECODER_N00417 N22204  10Meg  
R_DECODER_4-NAND_R2         DECODER_N00445 N22204  10Meg  
M_DECODER_2-NAND_M4         DECODER_N00385 N00370 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_2-NAND_M5         DECODER_N00385 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_2-NAND_R1         N22204 N22204  10Meg  
M_DECODER_2-NAND_M6         DECODER_N00385 N22204 DECODER_2-NAND_N23681 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_2-NAND_R2         N00370 N22204  10Meg  
M_DECODER_2-NAND_M2         DECODER_2-NAND_N23681 N00370 N22204 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_7-NAND3_R4         N22204 N22204  10Meg  
M_DECODER_7-NAND3_M2         DECODER_7-NAND3_N38454 N22204
+  DECODER_7-NAND3_N38740 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M6         DECODER_7-NAND3_N38740 N22204
+  DECODER_7-NAND3_N38778 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M8         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND3_M14         DECODER_7-NAND3_N43125 N22204 N22204 N22204 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M11         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND3_R7         N22204 N22204  10Meg  
M_DECODER_7-NAND3_M3         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND3_R1         N22204 N22204  10Meg  
M_DECODER_7-NAND3_M4         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND3_R2         N22204 N22204  10Meg  
R_DECODER_7-NAND3_R5         N22204 N22204  10Meg  
R_DECODER_7-NAND3_R3         N22204 N22204  10Meg  
M_DECODER_7-NAND3_M13         DECODER_7-NAND3_N43046 N22204
+  DECODER_7-NAND3_N43125 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M9         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_7-NAND3_R6         N22204 N22204  10Meg  
M_DECODER_7-NAND3_M12         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND3_M7         DECODER_7-NAND3_N38778 N22204
+  DECODER_7-NAND3_N39060 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M5         DECODER_N00547 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_7-NAND3_M1         DECODER_N00547 N22204 DECODER_7-NAND3_N38454
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_7-NAND3_M10         DECODER_7-NAND3_N39060 N22204
+  DECODER_7-NAND3_N43046 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_5-NAND_M10         DECODER_5-NAND_N36965 N22204 N22204 N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_5-NAND_M4         DECODER_N00397 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_5-NAND_R1         N22204 N22204  10Meg  
R_DECODER_5-NAND_R2         N22204 N22204  10Meg  
R_DECODER_5-NAND_R3         N22204 N22204  10Meg  
M_DECODER_5-NAND_M7         DECODER_5-NAND_N33879 N22204 DECODER_5-NAND_N36965
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_5-NAND_M5         DECODER_N00397 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_5-NAND_M1         DECODER_N00397 N22204 DECODER_5-NAND_N33539 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_5-NAND_M2         DECODER_5-NAND_N33539 N22204 DECODER_5-NAND_N33841
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER_5-NAND_M6         DECODER_5-NAND_N33841 N22204 DECODER_5-NAND_N33879
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_5-NAND_R4         N22204 N22204  10Meg  
R_DECODER_5-NAND_R5         N22204 N22204  10Meg  
M_DECODER_5-NAND_M3         DECODER_N00397 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_5-NAND_M8         DECODER_N00397 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_5-NAND_M9         DECODER_N00397 N22204 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_2-NAND1_M4         2SB DECODER_N00385 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER_2-NAND1_M5         2SB DECODER_N00397 N00370 N00370 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER_2-NAND1_R1         DECODER_N00397 N22204  10Meg  
M_DECODER_2-NAND1_M6         2SB DECODER_N00397 DECODER_2-NAND1_N23681 N22204
+  CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER_2-NAND1_R2         DECODER_N00385 N22204  10Meg  
M_DECODER_2-NAND1_M2         DECODER_2-NAND1_N23681 DECODER_N00385 N22204
+  N22204 CMOSN  
+ L=.5u  
+ W=.8u         
R_R2         2SB N22204  100k  
R_R3         LSB N22204  100k  
R_R5         N22204 N22204  100k  
