* source I-DECODER-6BITS
R_R3         N165590 N157962  100K  
X_U2         -V1 -V2 -V4 -V6 -V8 -V10 -V12 -V14 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+  0 0 0 0 0 0 0 0 N165696 N165590 N177429 N165384 N163011 N163089 N163169
+  N163251 N163335 N163421 N163509 N163599 N163691 N163785 N163881 N157962
+  N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962
+  N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962
+  N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962
+  N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962
+  N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962 N157962
+  N157962 0 N165804 N176301 N157962 
R_R4         N165696 N157962  100K  
V_SENALES         2.-V14 -V14 0  
+PULSE 0 3 13.9u .1u 0 1u 15u
V_SENALES         2.V12 N163599 0  
+PULSE 3 0 11.9u .1u 0 3u 15u
V_SENALES         2.V9 N163335 0  
+PULSE 3 0 8.9u .1u 0 6u 15u
V_SENALES         2.-V4 -V4 0  
+PULSE 0 3 3.9u .1u 0 11u 15u
V_SENALES         2.V1 -V1 0  
+PULSE 0 3 0.9u .1u 0 14u 15u
V_SENALES         2.V5 N163089 0  
+PULSE 3 0 4.9u .1u 0 10u 15u
V_SENALES         2.V15 N163881 0  
+PULSE 3 0 14.9u .1u 0u 0u 15u
V_SENALES         2.-V12 -V12 0  
+PULSE 0 3 11.9u .1u 0 3u 15u
V_SENALES         2.V10 N163421 0  
+PULSE 3 0 9.9u .1u 0 5u 15u
V_SENALES         2.-V2 -V2 0  
+PULSE 0 3 1.9u .1u 0 13u 15u
V_SENALES         2.V13 N163691 0  
+PULSE 3 0 12.9u .1u 0 2u 15u
V_SENALES         2.-V10 -V10 0  
+PULSE 0 3 9.9u .1u 0 5u 15u
V_SENALES         2.V3 N163011 0  
+PULSE 3 0 2.9u .1u 0 12u 15u
V_SENALES         2.V6 N163169 0  
+PULSE 3 0 5.9u .1u 0 9u 15u
V_SENALES         2.V14 N163785 0  
+PULSE 3 0 13.9u .1u 0 1u 15u
V_SENALES         2.V11 N163509 0  
+PULSE 3 0 10.9u .1u 0 4u 15u
V_SENALES         2.-V8 -V8 0  
+PULSE 0 3 7.9u .1u 0 7u 15u
V_SENALES         2.-V6 -V6 0  
+PULSE 0 3 5.9u .1u 0 9u 15u
V_SENALES         2.V7 N163251 0  
+PULSE 3 0 6.9u .1u 0 8u 15u
R_R5         N165804 N157962  100K  
R_R6         N176301 N157962  100K  
R_R1         N165384 N157962  100K  
R_R2         N177429 N157962  100K  
V_VDD         N157962 0 3.3
